*****************************************************************************
* CDL Netlist:
* Cell Name: Comparator
* Netlisted on: Sep 12 15:12:09 2026
*****************************************************************************

*****************************************************************************
* BIPOLAR Declarations
*****************************************************************************
*.BIPOLAR
*.RESI = 2000.000000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.SCALE METER


*****************************************************************************
* Parameter Statement
*****************************************************************************
.PARAM


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: sky130_analog_lib                                                  *
* Cell   : Trim                                                               *
* View   : schematic                                                          *
* Last Time Saved: Sep 12 15:00:14 2026                                       *
*******************************************************************************
.subckt Trim Vss d<4> d<3> d<2> d<1> d<0> drain
*.PININFO Vss:I d<4>:I d<3>:I d<2>:I d<1>:I d<0>:I drain:I 
.ends Trim


*******************************************************************************
* Main Circuit Netlist:                                                       *
*                                                                             *
* Library: sky130_analog_lib                                                  *
* Cell   : Comparator                                                         *
* View   : schematic                                                          *
* Last Time Saved: Aug  5 14:00:21 2026                                       *
*******************************************************************************
.subckt Comparator Out_N Out_P Clk Trima<4> Trima<3> Trima<2> Trima<1> Trima<0>
+Trimb<4> Trimb<3> Trimb<2> Trimb<1> Trimb<0> Vdd Vn Vp Vss
*.PININFO Out_N:O Out_P:O Clk:I Trima<4>:I Trima<3>:I Trima<2>:I Trima<1>:I
*.PININFO Trima<0>:I Trimb<4>:I Trimb<3>:I Trimb<2>:I Trimb<1>:I Trimb<0>:I
*.PININFO Vdd:I Vn:I Vp:I Vss:I 
XI1 Vss Trimb<4> Trimb<3> Trimb<2> Trimb<1> Trimb<0> net3 Trim
XI0 Vss Trima<4> Trima<3> Trima<2> Trima<1> Trima<0> net2 Trim
.ends Comparator
